US05053409
A solution of 31.4 g of p-n-propylaniline dissolved in 116 ml of acetic acid and 232 ml of water was added dropwise into 200 ml of a mixed solution comprising 130 g of sodium isocyanate and 900 ml of water, and then stirred in an ice-bath for 30 minutes. The crystals precipitated were filtered, washed with water and dried to give 38.88 g of 4-n-propylphenylurea. After the 4-n-propylphenylurea was added in portions into 107.6 ml of 20% fuming sulfuric acid, the reaction was carried out at 60° C. for 2 hours. Under cooling in an ice-bath, about 400 ml of ice was added into the reaction mixture, followed by heating under reflux for 4 hours. The crystals precipitated by cooling were filtered, washed with water and then dried to give 30.09 g of the above title product (yield: 64.1%). Melting point: 30 261.7°-262.3° C.

reactant | p-n-propylaniline | 31.4 g | C(CC)C1=CC=C(N)C=C1 | C9H13N
reactant | water | 232 ml | O | H2O
reactant | sodium isocyanate | 130 g | [N-]=C=O.[Na+]
reactant | water | 900 ml | O | H2O
solvent | acetic acid | 116 ml | C(C)(=O)O | C2H4O2
product | 4-n-propylphenylurea | 38.88 g | C(CC)C1=CC=C(C=C1)NC(=O)N | C10H14N2O
